US04876257
(2S)-(+)-6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanylthio]purine
To NaH (0.56 g, 11.6 mmol, 50% suspension in mineral oil prewashed with pentane) in DMF (12 mL) at 0° C. 6-mercaptopurine (1.97 g, 11.6 mmol) was added in portions over 10 min. (2S)-(-)-(1,2-Epoxypropyl)-4-[bis(4-fluorophenyl)methyl]piperazine (4.0 g, 11.6 mmol) in DMF (10 mL) was added dropwise at 0° C. over a 5 min period. The reaction mixture was allowed to warm to room temperature after an additional 5 min and was stirred for 72 h. DMF was removed in vacuo (1 mm Hg, 55° C.) and the residue was dissolved in CH2Cl2 (100 mL). The solution was filtered through celite, concentrated and the residue was purified by flash chromatography on silica gel using 10% MeOH:CH2Cl2 to give the title compound as a white solid, 1.37 g (23%), mp 118°-120° C. (dec.); DCI/MS (M+1) 497. 400 MHz 1H NMR (CDCl3) δ: 8.65 (s, 1H), 8.2 (s, 1H), 7.35 (m, 4H), 6.98 (m, 4H), 4.2 (s, 1H), 4.18 (m, 1H), 3.65-3.45 (m, 2H), 2.7-2.4 (m, 10H); [δ]D22 +7.3° (0.5% in EtOH).

reactant | NaH | 11.6 mmol, 0.56 g | [H-].[Na+]
reactant | 6-mercaptopurine | 11.6 mmol, 1.97 g | SC1=C2NC=NC2=NC=N1 | C5H4N4S
reactant | (2S)-(-)-(1,2-Epoxypropyl)-4-[bis(4-fluorophenyl)methyl]piperazine | 11.6 mmol, 4.0 g | O1C([C@@H]1C)N1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C20H22F2N2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2S)-(+)-6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanylthio]purine | FC1=CC=C(C=C1)C(N1CCN(CC1)C[C@@H](CSC1=C2NC=NC2=NC=N1)O)C1=CC=C(C=C1)F | C25H26F2N6OS
